US08211908B2
A solution of 150 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one and 85 mg of bromo acetate in 15 mL of acetonitrile, 100 mg of potassium carbonate was added, and the mixture was stirred at room temperature for 18 hours, and stirred at 40° C. for 4 hours. The solvent was distilled off under reduced pressure, thereto were added chloroform and water, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using silica gel; Silica Gel 60N made by KANTO CHEMICAL CO., INC., and an eluent of chloroform:methanol=20:1 to obtain 90 mg of ethyl ((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)amino)acetate as an brown oily substance.

reactant | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 150 mg | O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | C24H29N5O4
reactant | bromo acetate | 85 mg | C(C)(=O)OBr | C2H3BrO2
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 15 mL | C(C)#N | C2H3N
product | ethyl ((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)amino)acetate | 90 mg | O1CCOC=2C=NC(=CC21)CN(C2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O)CC(=O)OCC | C28H35N5O6
